US06987114B1
1-(1H-benzotriazol-1-ylmethyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and 1-chloromethyl-1H-benzotriazole were reacted by the same way with the example 1 to obtain the titled compound (112 mg, yield: 28.6%).

reactant | 5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O3
reactant | 1-chloromethyl-1H-benzotriazole | ClCN1N=NC2=C1C=CC=C2 | C7H6ClN3
product | 1-(1H-benzotriazol-1-ylmethyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 112 mg, yield: 28.6% | N1(N=NC2=C1C=CC=C2)CN2C(NC(C(=C2OC2=CC(=CC(=C2)C)C)CC)=O)=O | C21H21N5O3
